US08937092B2
To a stirred solution of 1-methoxy-2-nitrobenzene (3 g, 19.59 mmol) in dimethylformamide were added potassium tert-butoxide (8.792 g, 78.36 mmol) and ethyl 2-chloropropionate (2.5 ml, 19.59 mmol) while maintaining temperature below −30° C. The reaction mixture was stirred for 5 min at −30° C., then ethyl 2-chloropropionate (0.25 mL, 1.959 mmol) was added to mixture. The reaction mixture was stirred for 10 min at room temperature. The residue was dissolved in ethyl acetate and washed with water and brine. The organic layer was dried over magnesium sulfate and filtered. The filtrate removed in vacuo. The crude was purified by column chromatography. Ethyl 2-(3-methoxy-4-nitrophenyl)propanoate (683 mg) was obtained as 14% yield.

reactant | 1-methoxy-2-nitrobenzene | 19.59 mmol, 3 g | COC1=C(C=CC=C1)[N+](=O)[O-] | C7H7NO3
reactant | potassium tert-butoxide | 78.36 mmol, 8.792 g | CC(C)([O-])C.[K+]
reactant | ethyl 2-chloropropionate | 19.59 mmol, 2.5 ml | ClC(C(=O)OCC)C | C5H9ClO2
reactant | ethyl 2-chloropropionate | 1.959 mmol, 0.25 mL | ClC(C(=O)OCC)C | C5H9ClO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3-methoxy-4-nitrophenyl)propanoate | 683 mg, 14% yield | COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C | C12H15NO5
